US08314109B2
To a solution of 1 g of 3-bromo-2-oxo-N-phenylpropionamide in 50 mL of 1,2-dimethoxyethane are added 1.09 g of 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine. The reaction mixture is stirred for 40 hours at room temperature and then concentrated to dryness under reduced pressure. The residue is taken up in 30 mL of ethanol and refluxed for 90 minutes. After concentrating to dryness under reduced pressure, the solid is triturated in a small amount of ethanol, filtered off and washed with ethanol and then with ethyl ether to give 0.6 g of N-phenyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxamide hydrobromide (1:1) in the form of a white solid.

reactant | 3-bromo-2-oxo-N-phenylpropionamide | 1 g | BrCC(C(=O)NC1=CC=CC=C1)=O | C9H8BrNO2
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.09 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | N-phenyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxamide hydrobromide | 0.6 g | Br.C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1 | InChI=1S/C20H22BN3O3.BrH/c1-19(2)20(3,4)27-21(26-19)14-10-11-17-23-16(13-24(17)12-14)18(25)22-15-8-6-5-7-9-15;/h5-13H,1-4H3,(H,22,25);1H
